US04182897
Phosphorus pentachloride (22 g) was added to 22.1 g of m-nitro-α-ethylcinnamic acid suspended in 300 ml of ethyl acetate, and the mixture was stirred at room temperature for 1 hour. After the reaction, the solvent was distilled off under reduced pressure, upon which m-nitro-α-ethylcinnamoyl chloride precipitated. This compound was dissolved in 300 ml of ethyl acetate, and 12.4 g of p-methoxyphenol was added thereto. After the reaction at room temperature for 1 hour, the reaction mixture was washed with 10% HCl, 10% NaOH and water in this order and dried on anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure to obtain p-methoxyphenyl m-nitro-α-ethylcinnamate. Yield: 30.7 g (93.9%); melting point: 65°-66° C.; IR (cm-1): 1710, 1503, 1351.

reactant | Phosphorus pentachloride | 22 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | m-nitro-α-ethylcinnamic acid | 22.1 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)O)CC)C=CC1 | C11H11NO4
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | p-methoxyphenyl m-nitro-α-ethylcinnamate | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC2=CC=C(C=C2)OC)CC)C=CC1 | C18H17NO5
